US05567726
4-(1-Azetidinyl)butanal dimethylacetal
A mixture of azetidine (2.0 g, 35.0 mmol), 4-chlorobutanal dimethylacetal (5.88 g, 39.0 mmol) and K2CO3 (5.38 g, 39.0 mmol), in anhydrous DMF (100ml), was stirred at room temperature for 72 h. Water (50 ml) was added and the mixture extracted with EtOAc (3×150 ml). The combined extracts were washed with H2O (3×50ml), dried (Na2SO4) and evaporated. The crude product was purified by distillation (1.2 g). δ (360 MHz, CDCl3) 1.35-1.42 (2H, m, CH2), 1.57-1.64 (2H, m, CH2), 2.00-2.40 (2H, m, CH2), 2.36 (2H, t, J=9.0 Hz, CH2), 3.15 (4H, m, t, J=7.0 Hz, 2 of CH2), 3.33 (6H, s, 2 of OMe), 4.35 (1H, t, J=5.7 Hz, CH).

reactant | azetidine | 35.0 mmol, 2.0 g | N1CCC1 | C3H7N
reactant | 4-chlorobutanal dimethylacetal | 39.0 mmol, 5.88 g | COC(CCCCl)OC | C6H13ClO2
reactant | K2CO3 | 39.0 mmol, 5.38 g | C(=O)([O-])[O-].[K+].[K+]
reactant | Water | 50 ml | O | H2O
solvent | DMF | 100ml | CN(C)C=O | C3H7NO
product | 4-(1-Azetidinyl)butanal dimethylacetal | COC(CCCN1CCC1)OC | C9H19NO2
